US06218429B1
9-(2-aminoethyl)-1,7,8,9-tetrahydroindeno[5,4-b][1,4]oxazin-2(3H)-one
(E)-(1,2,3,7,8,9-Hexahydro-2-oxoindeno[5,4-b][1,4] oxazin-9-ylidene)acetonitrile (3.0 g, 13.3 mmol.) and Raney nickel (14.0 g) were suspended in a saturated ammonia/ethanol solution (300 mL). The suspension was stirred for 6 hours at 40° C. under hydrogen atmosphere (5 kgf/cm2). The reaction mixture was cooled, and, then, the Raney nickel catalyst was filtered off. From the filtrate, the solvent was distilled off under reduced pressure to leave an oily residue. The residue was poured into 2N HCl, which was washed with ethyl acetate. The pH of the aqueous layer was adjusted to 10 with a 4N aqueous solution of sodium hydroxide. The organic matter was extracted from the aqueous layer with a mixture solvent of chloroform/methanol (10:1). The extract solution was dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate/isopropyl ether to afford the title compound (yield 1.9 g, 62%).

reactant | (E)-(1,2,3,7,8,9-Hexahydro-2-oxoindeno[5,4-b][1,4] oxazin-9-ylidene)acetonitrile | 13.3 mmol, 3.0 g | O=C1NC2=C(OC1)C=CC=1CC/C(/C12)=C\C#N | C13H10N2O2
reactant | HCl | 2N | Cl | ClH
catalyst | Raney nickel | 14.0 g | [Ni] | Ni
solvent | ammonia ethanol | 300 mL | N.C(C)O
product | 9-(2-aminoethyl)-1,7,8,9-tetrahydroindeno[5,4-b][1,4]oxazin-2(3H)-one | yield 1.9 g, 62% | NCCC1CCC=2C=CC=3OCC(NC3C12)=O | C13H16N2O2
